US07229836B2
1.3 Preparation of Monomer (2,6-diisopropyl)phenyl (4-vinyl)phenyl carbonate.
The reaction is based on that described by Whitcombe et al (J Am Chem Soc 117, 7105–7111 (1995)); the molar ratios were choroformate:vinylphenol: diisopropylethylamine 1:1.2. The vinylphenol was dissolved in dry THF and the base added; the flask was kept in an ice bath an the chlorformate added dropwise; the flask was allowed to get to room temperature and the reaction was monitored (TLC 60–40 cyclohexane-dichloromethane)), the solvent was removed and the raw mixture was dissolved in CH2Cl2. After extraction with water the organic layer was taken down to dryness and the monomer was separated by purification on a silica column using a stepwise gradient of CH2Cl2-hexane (from 5% CH2Cl2 to 80%). The analysis showed purity >98%. The overall reaction scheme for preparation of them monomer is illustrated in Reaction Scheme I.

reactant | choroformate vinylphenol diisopropylethylamine | ClC(=O)[O-].C(=C)C1=C(C=CC=C1)O.C(C)(C)N(CC)C(C)C
reactant | vinylphenol | C(=C)C1=C(C=CC=C1)O | C8H8O
reactant | chlorformate | ClC(=O)[O-]
reactant | cyclohexane dichloromethane | C1CCCCC1.ClCCl
solvent | THF | C1CCOC1 | C4H8O
product | (2,6-diisopropyl)phenyl (4-vinyl)phenyl carbonate | C(OC1=C(C=CC=C1C(C)C)C(C)C)(OC1=CC=C(C=C1)C=C)=O | C21H24O3
